US07514468B2
1-acetyl-5-nitro-6-chloro-2-indolinone
2.75 g 1-acetyl-6-chloro-2-indolinone (educt V.1) are placed in 40 ml concentrated sulphuric acid and at −10° C. 1.05 g of ammonium nitrate are added. The mixture is stirred for 1.5 hours at ambient temperature. After this time the mixture is poured onto ice water and stirred for a further 20 minutes. The solution is neutralised with concentrated ammonia, the precipitate formed is suction filtered and washed with a little ethanol and ether.

reactant | 1-acetyl-6-chloro-2-indolinone | 2.75 g | C(C)(=O)N1C(CC2=CC=C(C=C12)Cl)=O | C10H8ClNO2
reactant | ammonium nitrate | 1.05 g | [N+](=O)([O-])[O-].[NH4+]
reactant | ammonia | N | H3N
solvent | sulphuric acid | 40 ml | S(O)(O)(=O)=O | H2O4S
product | 1-acetyl-5-nitro-6-chloro-2-indolinone | C(C)(=O)N1C(CC2=CC(=C(C=C12)Cl)[N+](=O)[O-])=O | C10H7ClN2O4
